US06586441B2
N-[5-Cyano-4-furan-2-yl-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidin-2-yl]-benzamide
From N-(5-cyano-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl)-benzamide, 2-pyridylethylmercaptan and DBU in DME. ES-MS m/e (%): 428 (M+H+, 100).

reactant | N-(5-cyano-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl)-benzamide | C(#N)C=1C(=NC(=NC1S(=O)C)NC(C1=CC=CC=C1)=O)C=1OC=CC1 | C17H12N4O3S
reactant | 2-pyridylethylmercaptan | N1=C(C=CC=C1)CCS | C7H9NS
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | N-[5-Cyano-4-furan-2-yl-6-(2-pyridin-2-yl-ethylsulfanyl)-pyrimidin-2-yl]-benzamide | C(#N)C=1C(=NC(=NC1SCCC1=NC=CC=C1)NC(C1=CC=CC=C1)=O)C=1OC=CC1 | C23H17N5O2S
